US08466181B2
a) 6-{4-[5-(4-Fluoro-phenyl)-3-methyl-3H-[1,2,3]triazol-4-yl]-imidazol-1-yl}-nicotinic acid methyl ester
A mixture of 4-(4-fluoro-phenyl)-5-(1H-imidazol-4-yl)-1-methyl-1H-[1,2,3]triazole (82 mg, 0.34 mmol), methyl 6-chloronicotinate (58 mg, 0.34 mmol) and potassium carbonate (93 mg, 0.67 mmol) in DMF (1.7 mL) was stirred under Ar in a sealed flask and heated at 120° C. for 16 h. After cooling to room temperature the mixture was poured into HCl (1 N) and extracted with ethyl acetate and the combined extracts washed with water, brine, dried over sodium sulphate, filtered and evaporated. Purification by chromatography (silica, 0 to 100% ethyl acetate in heptane) afforded the title compound (70 mg, 55%) as an off white solid. MS: m/e=379.2 [M+H]+.

reactant | 4-(4-fluoro-phenyl)-5-(1H-imidazol-4-yl)-1-methyl-1H-[1,2,3]triazole | 0.34 mmol, 82 mg | FC1=CC=C(C=C1)C=1N=NN(C1C=1N=CNC1)C | C12H10FN5
reactant | methyl 6-chloronicotinate | 0.34 mmol, 58 mg | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | potassium carbonate | 0.67 mmol, 93 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1 N | Cl | ClH
solvent | DMF | 1.7 mL | CN(C)C=O | C3H7NO
product | 6-{4-[5-(4-Fluoro-phenyl)-3-methyl-3H-[1,2,3]triazol-4-yl]-imidazol-1-yl}-nicotinic acid methyl ester | 70 mg, 55% | COC(C1=CN=C(C=C1)N1C=NC(=C1)C=1N(N=NC1C1=CC=C(C=C1)F)C)=O | C19H15FN6O2
